US05576340
2-{2-[4-(2-Methoxycarbonylethyl)phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol (Compound No. 3-4)
Following a procedure similar to that described in Example 6, but using 4.5 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 3.5 g of methyl 3-[4-(2-oxopropoxy)phenyl]propionate (prepared as described in Preparation 5), 100 ml of benzene, 100 ml of absolute methanol and 2.6 g of sodium cyanoborohydride, 2.8 g of the title compound were obtained as crystals, melting at 65°-73° C.

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 4.5 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 3-[4-(2-oxopropoxy)phenyl]propionate | 3.5 g | O=C(COC1=CC=C(C=C1)CCC(=O)OC)C | C13H16O4
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 2.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-{2-[4-(2-Methoxycarbonylethyl)phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol | 2.8 g | COC(=O)CCC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C21H26ClNO4
